US03931407
1-(2-Methoxycarbonylphenyl)-2-phenyl-4,5,6,7-tetrahydroindole ##SPC25##
A solution of 10.8 g. (0.05 mole) of 2-phenacylcyclohexanone, 7.55 g. (0.05 mole) of methyl anthranilate, and 30 ml. of glacial acetic acid was heated under reflux for 7 hours, cooled, and diluted with water. The layers were separated, and the aqueous phase was extracted with ether. The combined organic phase was washed with sodium bicarbonate solution, dried over sodium sulfate, and concentrated to an oil. Chromatography on silica gel with toluene as the eluent gave 2.91 g. (18%) of a yellow oil.

reactant | 2-phenacylcyclohexanone | 0.05 mole | C(C(=O)C1=CC=CC=C1)C1C(CCCC1)=O | C14H16O2
reactant | methyl anthranilate | 0.05 mole | C(C=1C(N)=CC=CC1)(=O)OC | C8H9NO2
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 1-(2-Methoxycarbonylphenyl)-2-phenyl-4,5,6,7-tetrahydroindole | COC(=O)C1=C(C=CC=C1)N1C(=CC=2CCCCC12)C1=CC=CC=C1 | C22H21NO2
